US07906645B2
N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)carbonyl]piperazine-1-carboxamide
To a solution of N-(3,4-dichlorophenyl)-4-(piperidin-3-ylcarbonyl)piperazine-1-carboxamide hydrochloride (200 mg) in dimethylformamide (10 mL) was added potassium carbonate (138 mg) and ethyl bromide (0.035 mL). The reaction mixture was stirred overnight. The reaction mixture was partitioned between dichloromethane and water and the organic layer was washed with brine. The organic extract was dried over sodium sulfate and evaporated. The residue was purified by silica column chromatography, eluting with a gradient of 0 to 10% MeOH in dichloromethane to give the title compound as a white solid (94 mg, 48%).

reactant | N-(3,4-dichlorophenyl)-4-(piperidin-3-ylcarbonyl)piperazine-1-carboxamide hydrochloride | 200 mg | Cl.ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CNCCC1
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 0.035 mL | C(C)Br | C2H5Br
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(3,4-Dichlorophenyl)-4-[(1-ethylpiperidin-3-yl)carbonyl]piperazine-1-carboxamide | 94 mg, 48% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)C1CN(CCC1)CC | C19H26Cl2N4O2
